US07759373B2
To a solution of ethyl 2-(4-fluorophenyl)-4-(2-thienyl)-oxazol-5-ylacetate (94 mg) in tetrahydrofuran (3 ml) and ethanol (3 ml) was added 1N aqueous sodium hydroxide solution (1 ml) and the mixture was stirred at room temperature for one hour. To the reaction mixture was added 10% hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. The resulting residue was dissolved in methanol (5 ml), 0.5M sodium methoxide (556 μl, methanol solution) was added to the solution and the solvent was removed under reduced pressure to obtain sodium 2-(4-fluorophenyl)-4-(2-thienyl)oxazol-5-ylacetate (90 mg) as pale brownish powder.

reactant | ethyl 2-(4-fluorophenyl)-4-(2-thienyl)-oxazol-5-ylacetate | 94 mg | FC1=CC=C(C=C1)C=1OC(=C(N1)C=1SC=CC1)CC(=O)OCC | C17H14FNO3S
reactant | sodium hydroxide | 1N, 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | sodium 2-(4-fluorophenyl)-4-(2-thienyl)oxazol-5-ylacetate | 90 mg | FC1=CC=C(C=C1)C=1OC(=C(N1)C=1SC=CC1)CC(=O)[O-].[Na+] | InChI=1S/C15H10FNO3S.Na/c16-10-5-3-9(4-6-10)15-17-14(12-2-1-7-21-12)11(20-15)8-13(18)19;/h1-7H,8H2,(H,18,19);/q;+1/p-1
